US04203988
C. N,N-Dimethyl-N'-(2-aminoethyl)-N'-(4,6-dimethyl-2-pyridyl) urea
A solution of N,N-dimethyl-N'-(cyanomethyl)-N'-(4,6-dimethyl-2-pyridyl)urea from Part B (5.3 g., 0.023 mole) in ethyl acetate (100 ml.) containing platinum oxide (0.8 g.) is hydrogenated in a Parr apparatus at 50 psi of hydrogen until the required amount is taken up (12 hours). The catalyst is filtered off and the solvent removed under vacuum to give 4.6 g. of oily product.

reactant | N,N-dimethyl-N'-(cyanomethyl)-N'-(4,6-dimethyl-2-pyridyl)urea | CN(C(=O)N(C1=NC(=CC(=C1)C)C)CC#N)C | C12H16N4O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 0.8 g | [Pt]=O
product | N,N-Dimethyl-N'-(2-aminoethyl)-N'-(4,6-dimethyl-2-pyridyl) urea | CN(C(=O)N(C1=NC(=CC(=C1)C)C)CCN)C | C12H20N4O
